US05420130
2.2 4-[[5-Methyl-2-(1-methylethyl)phenoxy]methyl]piperidine-1-propylamine
17.35 g (0.04 mol) of 2-[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperid-1-yl]propyl]-1H-isoindole-1,3 (2H)-dione are reacted in 340 ml of ethanol with 3.9 ml (0.08 mol) of hydrazine hydrate. The mixture is heated at the reflux temperature for 3 h. The mixture is filtered, the solid being rinsed with a small amount of ethanol, the filtrate is concentrated and taken up in diethyl ether. An insoluble material is again removed by filtration and the filtrate is again concentrated. The insoluble materials are combined in a round-bottomed flask and 25 ml of concentrated hydrochloric acid and 75 ml of water are added. The mixture is brought to reflux for 2 h while stirring. It is allowed to cool, the insoluble material is removed by filtration, rinsing is carried out with water, basification is carried out with concentrated aqueous ammonia and extraction is carried out three times with diethyl ether. The organic phase is dried over sodium sulphate, filtered and concentrated under reduced pressure. A compound is obtained which is used as is in the following stage.

reactant | 2-[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperid-1-yl]propyl]-1H-isoindole-1,3 (2H)-dione | 0.04 mol, 17.35 g | CC=1C=CC(=C(OCC2CCN(CC2)CCCN2C(C3=CC=CC=C3C2=O)=O)C1)C(C)C | C27H34N2O3
reactant | hydrazine hydrate | 0.08 mol, 3.9 ml | O.NN
solvent | ethanol | 340 ml | C(C)O | C2H6O
product | 4-[[5-Methyl-2-(1-methylethyl)phenoxy]methyl]piperidine-1-propylamine | CC=1C=CC(=C(OCC2CCN(CC2)CCCN)C1)C(C)C | C19H32N2O
